data/rdb19/train.csv
rxn,smiles,ea
1402,[C:10]([C:11]([C:12]([C:13]([H:20])([H:21])[H:22])[C:14]([H:23])([H:24])[H:25])([H:18])[H:19])([H:15])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:12]([C:11]([C:10]([H:15])([H:16])[H:17])([H:18])[H:19])([C:13]([H:20])([H:21])[H:22])[C:14]([H:23])([H:24])[H:25])[H:7])[H:6],9.21466499188682
3396,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[O:21][C:20]([C:18]([C:17]([H:23])([H:24])[H:25])=[C:19]([H:26])[H:27])[O:22][H:28])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],28.736277527583297
5390,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[H:21])[N:22]([C:23](=[O:24])[H:30])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])([H:10])[H:28],29.89504792162916
5084,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12]([C:13]([H:14])=[N:15][C:16](=[O:17])[H:24])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([O:2][C:3]([C:4]([H:9])([H:10])[H:23])[H:8])([H:5])([H:6])[H:7],37.25578940997366
1532,[C:10]([C:11]([C:12]([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:22])[H:6],34.067618000961374
3478,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:17]([H:21])([H:22])[H:23])([H:9])[H:10])([H:6])([H:7])[H:8].[O:18][C:19](=[C:20]([H:25])[H:26])[H:24],47.745547720754985
1941,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([H:14])[C:15](=[O:16])[N:17]([H:23])[H:24])([H:6])[H:7]>>[C:15](=[O:16])[N:17]([H:23])[H:24].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:13]1([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])[H:14])([H:6])[H:7],49.94847651885357
2253,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[C:13]([H:25])([H:26])[H:27])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([H:14])([H:15])[H:16].[H:5][C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[C:13]([H:25])([H:26])[H:27])([H:17])[H:18],92.33354856816004
1720,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:16]([C:15]([H:20])[H:21])([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22],33.50606426520972
3859,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])[H:7].[H:6][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28],30.160719989216886
3524,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:17]([H:23])([H:24])[H:25])([H:9])[H:10])([H:6])([H:7])[H:8],58.00502153264824
1592,[C:15]([C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:17]([C:16]([C:15]([H:19])([H:20])[H:21])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],15.767298757098615
